US20010036946A1
a) 2-nitro-N-[1-(phenylmethyl)-4-piperidinyl]-benzenesulphonic acid amide
Whilst carrying out external cooling with ice water a solution of 44.3 g (0.2 mol) of 2-nitrobenzenesulphonyl chloride in 250 ml of chloroform was added dropwise to a solution of 38.0 g (0.2 mol) of 4-amino-1-(phenylmethyl)piperidine and 22.0 g (0.22 mol) of triethylamine in 250 ml of chloroform. After the cooling was stopped the mixture was stirred for a further 30 minutes at room temperature, the reaction mixture was then extracted twice with 11 water. The aqueous extracts were extracted once more with 100 ml of dichloromethane, the combined organic phases were then dried over sodium sulphate and evaporated down in vacuo. The highly viscous light-brown substance obtained in a yield of 75.0 g (99.9% of theory) was further processed without any more purification. IR (KBr): 3363.7 (NH); 1541.0 (NO2); 1365.5 (NO2 or SO2); 1346.2 (NO2 or SO2); 1168.8 (SO2) cm−1

reactant | 2-nitrobenzenesulphonyl chloride | 0.2 mol, 44.3 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 4-amino-1-(phenylmethyl)piperidine | 0.2 mol, 38.0 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | triethylamine | 0.22 mol, 22.0 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-nitro-N-[1-(phenylmethyl)-4-piperidinyl]-benzenesulphonic acid amide | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC1CCN(CC1)CC1=CC=CC=C1 | C18H21N3O4S
